US09290485B2
a) 2-(azidomethyl)-7-chloroquinoline
To a solution of 2-(bromomethyl)-7-chloroquinoline (50 mg, 0.195 mmol) in DMF (0.5 ml) was added sodium azide (19.01 mg, 0.292 mmol). Reaction mixture was stirred for 2 h at 90° C. Reaction mixture was diluted with ethyl acetate/water. Layers were separated and organic layer was washed twice with water and with brine, dried over sodium sulfate, filtered and evaporated to afford the title compound. HPLC (Method G) Rt=1.990 min, MS (Method V) [M+H]+=219.1.

reactant | 2-(bromomethyl)-7-chloroquinoline | 0.195 mmol, 50 mg | BrCC1=NC2=CC(=CC=C2C=C1)Cl | C10H7BrClN
reactant | sodium azide | 0.292 mmol, 19.01 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 2-(azidomethyl)-7-chloroquinoline | N(=[N+]=[N-])CC1=NC2=CC(=CC=C2C=C1)Cl | C10H7ClN4
